US06150524
4,5α-Epoxy-17-methyl-6α-((2-tetrahydropyranyl)-methoxy)-morphinan-7-en-3-ol acetate
4,5α-Epoxy-3-methoxymethoxy-17-methyl-6α-((2-tetrahydropyranyl)-methoxy)-morphinan-7-ene (2.17 g, 5.08 mmol) is dissolved in water (65 ml) and glacial acetic acid (65 ml) and then stirred for 6 hours at 100° C. The volatile components are eliminated using the Rotavapor. The residue thus obtained is purified by flash chromatography (130 g of silica gel; mobile phase: methylene chloride/methanol=9:1). The product is dissolved in a mixture of water and glacial acetic acid and lyophilised. Yield: 1.55 g 4,5α-epoxy-17-methyl-6α-((2-tetrahydropyranyl)-methoxy)-morphinan-7-en-3-ol acetate (68.8%).

reactant | 4,5α-Epoxy-3-methoxymethoxy-17-methyl-6α-((2-tetrahydropyranyl)-methoxy)-morphinan-7-ene | 5.08 mmol, 2.17 g | O1C2=C(C=CC=3C[C@@H]4[C@@H]5C=C[C@@H]([C@H]1[C@@]5(C23)CCN4C)OCC4OCCCC4)OCOC | C25H33NO5
reactant | acetic acid | 65 ml | C(C)(=O)O | C2H4O2
solvent | water | 65 ml | O | H2O
product | 4,5α-Epoxy-17-methyl-6α-((2-tetrahydropyranyl)-methoxy)-morphinan-7-en-3-ol acetate | C(C)(=O)OC=1C=CC=2C[C@@H]3[C@@H]4C=C[C@@H]([C@H]5[C@@]4(C2C1O5)CCN3C)OCC3OCCCC3 | C25H31NO5
